US07351858B2
a) 2-Bromo-N-(2,4-difluorobenzyl)-N-heptylacetamide
N-(2,4-difluorobenzyl)-N-heptylamine (2.004 g, 8.304 mmol) was dissolved in DCM (30 ml). It was then cooled in an ice-bath. Triethylamine (1.092 g, 10.796 mmol) was added and then bromacetyl chloride (1.438 g, 9.135 mmol) was dropped in. The mixture was stirred for 2 hours (ice-bath). It was then washed with water (with additional of 1% hydrochloric acid, pH-3), water and brine, and dried (magnesium sulphate) and evaporated. The crude oil product was dissolved in DCM, then loaded onto a column (ISOLUTE®SI 5 g/25 ml) and eluted with more DCM. Oil product 2.412 g was obtained, yield 80%

reactant | N-(2,4-difluorobenzyl)-N-heptylamine | 8.304 mmol, 2.004 g | FC1=C(CNCCCCCCC)C=CC(=C1)F | C14H21F2N
reactant | Triethylamine | 10.796 mmol, 1.092 g | C(C)N(CC)CC | C6H15N
reactant | bromacetyl chloride | 9.135 mmol, 1.438 g | BrCC(=O)Cl | C2H2BrClO
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(2,4-difluorobenzyl)-N-heptylacetamide | 2.412 g, yield 80% | BrCC(=O)N(CCCCCCC)CC1=C(C=C(C=C1)F)F | C16H22BrF2NO
